US06121285
1-Benzyloxycarbonyl-4-(S)-(1-ethoxycarbonylcyclopropyl)-3-(S)-fluoropyrrolidine
4-(S)-(1-Ethoxycarbonylcyclopropyl)-3-(S)-fluoro-1-[1-(S)-phenylethyl]pyrrolidine (5.08 g, 16.63 mmol) was dissolved in dry dichloromethane (50 ml), and benzyl chloroformate (3.56 ml, 25.0 mmol) was added dropwise to the thus prepared solution which was cooled in an ice bath. After 1 hour of heating of the reaction solution under reflux, dichloromethane was evaporated under reduced pressure. Thereafter, the resulting residue was subjected to flash silica gel chromatography and eluted with an eluant of n-hexane:ethyl acetate=3:1, to thereby obtain 4.67 g (83.7%) of the title compound as a colorless oil.

reactant | 4-(S)-(1-Ethoxycarbonylcyclopropyl)-3-(S)-fluoro-1-[1-(S)-phenylethyl]pyrrolidine | 16.63 mmol, 5.08 g | C(C)OC(=O)C1(CC1)[C@@H]1[C@@H](CN(C1)[C@@H](C)C1=CC=CC=C1)F | C18H24FNO2
reactant | benzyl chloroformate | 25.0 mmol, 3.56 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-Benzyloxycarbonyl-4-(S)-(1-ethoxycarbonylcyclopropyl)-3-(S)-fluoropyrrolidine | 4.67 g, 83.7% | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](C1)C1(CC1)C(=O)OCC)F | C18H22FNO4
